US06303612B1
2-(4-Methoxyphenylsulfanyl)benzoic acid was reduced with sodium bis-(methoxyethoxy)-aluminum hydride to provide in 84.7% yield 2-(4-methoxyphenylsulfanyl)benzyl alcohol. This compound was without purification treated with thionyl chloride to provide in 95.0% yield 2-(4-methoxyphenylsulfanyl)benzyl chloride, m.p. 76-78° C. For C14H13ClOS (264.8) calculated: 63.51% C, 4.95% H, 13.39% Cl, 12.11% S; found: 63.43% C, 5.05% H, 13.16% Cl, 12.10% S. This compound was treated with sodium cyanide to provide in 94.6% yield 2-(4-methoxyphenylsulfanyl)phenylacetonitrile, m.p. 65-67° C. Alkaline hydrolysis of this nitrile provided after work-up 69.7% yield of 2-(4-methoxyphenyl-sulfanyl)phenylacetic acid, m.p. 177-179° C. Demethylation with pyridine hydrochloride provided in 82.5% yield 2-(4-hydroxyphenylsulfanyl)phenylacetic acid, m.p. 163-165° C. This acid was esterified with methanol in the presence of sulfuric acid to give the required ester in 77.8% yield, m.p. 126-128° C. For C15H14O3S (274.3) calculated: 65.69% C, 5.15% H, 11.67% S; found: 65.17% C, 5.14% H, 11.69% S. 1H NMR spectrum (CDCl3): H(O) 5.17 bs; CH2 3.85 s; aromatic H on the phenolic nucleus: H(3,5) 6.73 d, J=8.8 Hz.

reactant | 2-(4-Methoxyphenylsulfanyl)benzoic acid | COC1=CC=C(C=C1)SC1=C(C(=O)O)C=CC=C1 | C14H12O3S
reactant | sodium bis-(methoxyethoxy)-aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
product | 2-(4-methoxyphenylsulfanyl)benzyl alcohol | 84.7% yield | COC1=CC=C(C=C1)SC1=C(CO)C=CC=C1 | C14H14O2S
